US06992092B2
2-{6-[(2-Chloro-6H-thieno[2,3-b]pyrrole-5-carbonyl)-amino]-5-ethoxy-pyridin-3-yl}-2-hydroxy-propionic acid ethyl ester
The title compound was prepared from 2-chloro-6H-thieno[2,3-b]pyrrole-5-carbonyl chloride and 2-(6-amino-5-ethoxy-pyridin-3-yl)-2-hydroxy-propionic acid ethyl ester in a manner analogous to that described hereinabove in Example 2 using appropriate starting materials. LC/MS+=438.

reactant | 2-chloro-6H-thieno[2,3-b]pyrrole-5-carbonyl chloride | ClC1=CC2=C(NC(=C2)C(=O)Cl)S1 | C7H3Cl2NOS
reactant | 2-(6-amino-5-ethoxy-pyridin-3-yl)-2-hydroxy-propionic acid ethyl ester | C(C)OC(C(C)(O)C=1C=NC(=C(C1)OCC)N)=O | C12H18N2O4
product | 2-{6-[(2-Chloro-6H-thieno[2,3-b]pyrrole-5-carbonyl)-amino]-5-ethoxy-pyridin-3-yl}-2-hydroxy-propionic acid ethyl ester | C(C)OC(C(C)(O)C=1C=NC(=C(C1)OCC)NC(=O)C1=CC2=C(N1)SC(=C2)Cl)=O | C19H20ClN3O5S
